US05504082
2-((3-Methyl-4-(2-morpholinoethylthio)-2-pyridyl)methylthio)- 1H-benzimidazole (10 g) was reacted with 1.1 equivalents of ethyl chlorocarbonate in dimethylformamide in the presence of 1.1 equivalents of sodium hydride at room temperature. After the completion of the reaction, the solvent was distilled away and water was added to the residue, followed by extraction with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate and the solvent was distilled away to give 11 g of ethyl 2-((3-methyl-4-(2-morpholinoethylthio)-2-pyridyl)-methylthio)-1H-benzimidazole-1-carboxylate as crystals, melting point 145°-147° C.

reactant | 2-((3-Methyl-4-(2-morpholinoethylthio)-2-pyridyl)methylthio)- 1H-benzimidazole | 10 g | CC=1C(=NC=CC1SCCN1CCOCC1)CSC1=NC2=C(N1)C=CC=C2 | C20H24N4OS2
reactant | ethyl chlorocarbonate | 1.1 equivalents | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium hydride | 1.1 equivalents | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 2-((3-methyl-4-(2-morpholinoethylthio)-2-pyridyl)-methylthio)-1H-benzimidazole-1-carboxylate | 11 g | CC=1C(=NC=CC1SCCN1CCOCC1)CSC1=NC2=C(N1C(=O)OCC)C=CC=C2 | C23H28N4O3S2
